US07423157B2
3-Amino-2-(1-[3,4-dimethylphenylcarbonylmethyl]benzimidazol-2-yl)-1,2,4-triazole
A suspension of 3-amino-2-(1H-benzimidazol-2-yl)-1,2,4-triazole (0.15 g, 0.75 mol), 3,4-dimethyl phenacyl bromide (0.204 g, 0.9 mmol) and dry potassium carbonate (0.258 g, 1.87 mmol) is stirred at room temperature for 16 hours. The mixture is diluted with water and the product extracted with ethyl acetate. The product is purified by chromatography on silicagel. M.p. 190-193° C., 1H-NMR (400 MHz, d6-DMSO): 7.84 (m, 1H); 7.77 (m, 3H); 7.65 (m, 2H); 7.50 (s, 1H); 7.33 (d, 1H); 6.22 (s, 2H); 2.30 (s, 6H).

reactant | 3-amino-2-(1H-benzimidazol-2-yl)-1,2,4-triazole | 0.75 mol, 0.15 g | NC=1N(N=CN1)C1=NC2=C(N1)C=CC=C2 | C9H8N6
reactant | 3,4-dimethyl phenacyl bromide | 0.9 mmol, 0.204 g | CC=1C=C(C(CBr)=O)C=CC1C | C10H11BrO
reactant | potassium carbonate | 1.87 mmol, 0.258 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-Amino-2-(1-[3,4-dimethylphenylcarbonylmethyl]benzimidazol-2-yl)-1,2,4-triazole | NC=1N(N=CN1)C1=NC2=C(N1CC(=O)C1=CC(=C(C=C1)C)C)C=CC=C2 | C19H18N6O
